US05371097
A mixture of 2-(diaminomethyleneamino)-4-(6-hydrazinocarbonylpyridin-2-yl)thiazole (3.0 g) and 2-methyl-2-thiopseudourea sulfate (1.8 g) in dimethylsulfoxide (30 ml) was stirred for 6 hours at 100° C., and then the mixture was cooled to ambient temperature. To the mixture was added ethyl acetate (30 ml) under stirring. The isolated precipitate was collected by filtration and the precipitate was added to a mixture of water and ethyl acetate. The mixture was adjusted to pH 10 with 4N-sodium hydroxide and precipitate was collected by filtration to give 2-(diaminomethyleneamino)-4-(6-guanidinocarbamoylpyridin-2-yl)thiazole (2.48 g).

reactant | 2-(diaminomethyleneamino)-4-(6-hydrazinocarbonylpyridin-2-yl)thiazole | 3.0 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)C(=O)NN | C10H11N7OS
reactant | 2-methyl-2-thiopseudourea sulfate | 1.8 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-(diaminomethyleneamino)-4-(6-guanidinocarbamoylpyridin-2-yl)thiazole | 2.48 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)C(NNC(=N)N)=O | C11H13N9OS
